US06727264B1
N-{3-[1-({2-[(3-CHLOROBENZYL)OXY]-1-NAPHTHYL}METHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 2-[(3-chlorobenzyl)oxy]-1-naphthaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 527.2 (M+H)+.

reactant | 2-[(3-chlorobenzyl)oxy]-1-naphthaldehyde | ClC=1C=C(COC2=C(C3=CC=CC=C3C=C2)C=O)C=CC1 | C18H13ClO2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-{3-[1-({2-[(3-CHLOROBENZYL)OXY]-1-NAPHTHYL}METHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | ClC=1C=C(COC2=C(C3=CC=CC=C3C=C2)CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=CC1 | C33H35ClN2O2
